2111-01-11 08:08:00 Physician Resident Progress Note
Chief Complaint: Hypercarbic respiratory failure
   24 Hour Events:
   - failed SBT: looked comfortable, but ABG: 7.16/104/109
   - back on AC with some sedation
   - spoke to family: very independent, lives at home, has home caregivers
   but not 24 hr care, uses power wheelchair, never smoked, no h/o COPD,
   relative healthy besides the polio, restrictive lung dz, and mutliple
   fractures
   - TSH/FT4: subclinical hypothyroidism, no intervention taken
   - Repeat Hct stable
   - respiratory viral screen sent
   - sputum was good sample (< 10 epis) but only showing oropharyngeal
   flora
   - re-tried PS, tried to titrate manditory minute ventilation to PCO2 of
   80-90 but she was overbreathing to a minute ventilation of 3.5
   liters/min
   History obtained from Patient, Family / Friend
   Allergies:
   History obtained from Patient, Family / FriendBactrim (Oral)
   (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Penicillins
   Rash;
   Fluconazole
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2111-1-10**] 08:00 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-1-10**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-1-11**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.4
C (95.7
   HR: 66 (60 - 91) bpm
   BP: 101/54(73) {96/52(70) - 130/71(95)} mmHg
   RR: 8 (8 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 40 kg (admission): 40 kg
             Total In:
                                                                  2,537 mL
                                                                    483 mL
   PO:
             TF:
                                                                    145 mL
                                                                      3 mL
   IVF:
                                                                  2,212 mL
                                                                    380 mL
   Blood products:
   Total out:
                                                                    970 mL
                                                                    660 mL
   Urine:
                                                                    970 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,567 mL
                                                                   -177 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 320 (320 - 320) mL
   Vt (Spontaneous): 364 (331 - 381) mL
   PS : 15 cmH2O
   RR (Set): 8
   RR (Spontaneous): 10
   PEEP: 8 cmH2O
   FiO2: 25%
   RSBI: 150
   PIP: 23 cmH2O
   SpO2: 96%
   ABG: 7.33/66/90.[**Numeric Identifier 433**]/32/5
   Ve: 4 L/min
   PaO2 / FiO2: 360
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: asymmetric pupils, but reactive
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Bronchial: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   143 K/uL
   10.4 g/dL
   71 mg/dL
   0.1 mg/dL
   32 mEq/L
   5.2 mEq/L
   10 mg/dL
   104 mEq/L
   140 mEq/L
   31.1 %
   6.1 K/uL
        [image002.jpg]
                             [**2111-1-10**]  03:40 AM
                             [**2111-1-10**]  03:57 AM
                             [**2111-1-10**]  04:36 AM
                             [**2111-1-10**]  04:59 AM
                             [**2111-1-10**]  10:36 AM
                             [**2111-1-10**]  04:18 PM
                             [**2111-1-10**]  04:43 PM
                             [**2111-1-10**]  08:16 PM
                             [**2111-1-11**]  03:32 AM
                             [**2111-1-11**]  03:51 AM
   WBC
   5.2
   6.1
   Hct
   31.5
   30.7
   31.6
   31.1
   Plt
   140
   143
   Cr
   0.1
   0.1
   TropT
   0.02
   TCO2
   39
   39
   39
   36
   35
   36
   Glucose
   36
   71
   Other labs: PT / PTT / INR:13.0/33.1/1.1, CK / CKMB /
   Troponin-T:33//0.02, Lactic Acid:0.4 mmol/L, Ca++:8.5 mg/dL, Mg++:2.2
   mg/dL, PO4:6.7 mg/dL
   MICRO:
   resp screen: neg to date
   blood cx 1.9/09: ngtd
   sputum [**1-10**]: oropharyngeal flora
   CXR: no clear evidence pneumonia
   Assessment and Plan
   60 yoF with restrictive chest wall disease in setting of polio history,
   presents with confusion in setting of hypercarbic respiratory failure.
   MS resolved with proper ventilation.
   # Respiratory failure: initially hypoxic on presentation but now is
   primarily a problem with ventilation and hypercarbia.   Has severe
   restrictive lung disease from polio.  Had ventilatory failure with SBT
   although clinically she appeared comfortable.
   - discontinue vanco/levofloxacin as  no clear evidence of infection on
   CXR
   - essentially failed SBT; need to consider tracheostomy vs chronic
   daily Bipap at home. [**Month (only) 11**] need prolonged wean on vent to allow her
   bicarb to rise (renal compensation) enough to get her on Bipap which
   may not be enough anyway.  Will need to have  a discussion with patient
   and her family about the significant possibility that she will need
   trach and permanent ventilatory support.  Will try to wean PS and PEEP
   today.
   - resp viral screen negative
   # DROP IN HCT: Hct drop from baseline of 40 to 31 but has remained
   stable.  unclear cause, no gross blood loss from GI tract, no
   tachycardia or hypotension.  No known risk factors for bleed.
   - guaiac NG output and stool
   - empirically on [**Hospital1 **] PPI IV
   - check iron studies, folate, B12
   - check Hct daily
   # FEN: started TFs as may need prolonged ventilatory support
   # PPX: SQH, PPI [**Hospital1 **], bowel regimen
   #  COMMUNICATION: with patient (on vent) and brothers (one of whom is
   HCP)
   # ACCESS: aline, PIV
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2111-1-10**] 02:02 AM
   Arterial Line - [**2111-1-10**] 04:43 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2111-01-12 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- talked re: trach with pt and [**Last Name (un) **]: stated they wouldn't want it
   -- weaned down on PSV to [**10-5**] from [**12-5**]. tried [**8-5**] but didn't tolerated
   -- art line was bleeding, pulled. Tried to resite without success.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Penicillins
   Rash;
   Fluconazole
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2111-1-11**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2111-1-11**] 05:33 PM
   Heparin Sodium (Prophylaxis) - [**2111-1-11**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-1-12**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.5
C (97.7
   HR: 81 (57 - 84) bpm
   BP: 106/53(66) {102/50(66) - 121/61(75)} mmHg
   RR: 16 (8 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 40 kg (admission): 40 kg
   Height: 61 Inch
             Total In:
                                                                  1,542 mL
                                                                    598 mL
   PO:
             TF:
                                                                    387 mL
                                                                    308 mL
   IVF:
                                                                    756 mL
                                                                     90 mL
   Blood products:
   Total out:
                                                                  1,825 mL
                                                                    603 mL
   Urine:
                                                                  1,825 mL
                                                                    603 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -283 mL
                                                                     -5 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 320 (320 - 320) mL
   Vt (Spontaneous): 177 (177 - 403) mL
   PS : 10 cmH2O
   RR (Set): 8
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 226
   PIP: 15 cmH2O
   SpO2: 93%
   ABG: 7.41/52/91.[**Numeric Identifier **]/37/6
   Ve: 3.6 L/min
   PaO2 / FiO2: 307
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   152 K/uL
   10.7 g/dL
   100 mg/dL
   0.2 mg/dL
   37 mEq/L
   4.2 mEq/L
   9 mg/dL
   103 mEq/L
   143 mEq/L
   33.0 %
   6.4 K/uL
        [image002.jpg]
                             [**2111-1-10**]  10:36 AM
                             [**2111-1-10**]  04:18 PM
                             [**2111-1-10**]  04:43 PM
                             [**2111-1-10**]  08:16 PM
                             [**2111-1-11**]  03:32 AM
                             [**2111-1-11**]  03:51 AM
                             [**2111-1-11**]  10:22 AM
                             [**2111-1-11**]  11:28 AM
                             [**2111-1-11**]  08:13 PM
                             [**2111-1-12**]  04:02 AM
   WBC
   6.1
   6.4
   Hct
   31.6
   31.1
   33.0
   Plt
   143
   152
   Cr
   0.1
   0.2
   TCO2
   39
   36
   35
   36
   37
   35
   34
   Glucose
   71
   100
   Other labs: PT / PTT / INR:13.0/33.1/1.1, CK / CKMB /
   Troponin-T:33//0.02, Lactic Acid:0.4 mmol/L, Ca++:8.4 mg/dL, Mg++:2.3
   mg/dL, PO4:3.9 mg/dL
   Microbiology: [**2111-1-10**] RRP: prelim, negative
   Assessment and Plan
   60 yoF with restrictive chest wall disease in setting of polio history,
   presents with confusion in setting of hypercarbic respiratory failure.
   MS resolved with proper ventilation.
   # Respiratory failure: initially hypoxic on presentation but now is
   primarily a problem with ventilation and hypercarbia.   Has severe
   restrictive lung disease from polio.  Had ventilatory failure with SBT
   although clinically she appeared comfortable.
   - discontinue vanco/levofloxacin as  no clear evidence of infection on
   CXR
   - essentially failed SBT; need to consider tracheostomy vs chronic
   daily Bipap at home. [**Month (only) 11**] need prolonged wean on vent to allow her
   bicarb to rise (renal compensation) enough to get her on Bipap which
   may not be enough anyway.  Will need to have  a discussion with patient
   and her family about the significant possibility that she will need
   trach and permanent ventilatory support.  Will try to wean PS and PEEP
   today.
   - resp viral screen negative
   # DROP IN HCT: Hct drop from baseline of 40 to 31 but has remained
   stable.  unclear cause, no gross blood loss from GI tract, no
   tachycardia or hypotension.  No known risk factors for bleed.
   - guaiac NG output and stool
   - empirically on [**Hospital1 **] PPI IV
   - check iron studies, folate, B12
   - check Hct daily
   # FEN: started TFs as may need prolonged ventilatory support
   # PPX: SQH, PPI [**Hospital1 **], bowel regimen
   #  COMMUNICATION: with patient (on vent) and brothers (one of whom is
   HCP)
   # ACCESS: aline, PIV
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2111-1-10**] 02:02 AM
   Arterial Line - [**2111-1-10**] 04:43 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2111-1-11**] 02:24 PM 40 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2111-1-10**] 02:02 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2111-01-12 09:38:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Medical team discussed tracheostomy with the patient.  She
   preliminarily said she would not want tracheostomy at this time.
   A line d/c'd.
   History obtained from Patient
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Penicillins
   Rash;
   Fluconazole
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2111-1-11**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2111-1-11**] 05:33 PM
   Heparin Sodium (Prophylaxis) - [**2111-1-12**] 07:50 AM
   Other medications:
   colac, senna, iron
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-1-12**] 09:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.6
   HR: 81 (57 - 84) bpm
   BP: 106/53(66) {102/50(66) - 121/61(75)} mmHg
   RR: 16 (8 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 40 kg (admission): 40 kg
   Height: 61 Inch
             Total In:
                                                                  1,542 mL
                                                                    734 mL
   PO:
             TF:
                                                                    387 mL
                                                                    367 mL
   IVF:
                                                                    756 mL
                                                                    108 mL
   Blood products:
   Total out:
                                                                  1,825 mL
                                                                    603 mL
   Urine:
                                                                  1,825 mL
                                                                    603 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -283 mL
                                                                    131 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 320 (320 - 320) mL
   Vt (Spontaneous): 200 (177 - 279) mL
   PS : 10 cmH2O
   RR (Set): 8
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 30%
   RSBI: 226
   PIP: 21 cmH2O
   SpO2: 93%
   ABG: 7.41/52/91.[**Numeric Identifier **]/37/6
   Ve: 2.5 L/min
   PaO2 / FiO2: 307
   Physical Examination
   General Appearance: Thin, Kyphoscoliatic
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, Contractures in
   all limbs.
   Labs / Radiology
   10.7 g/dL
   152 K/uL
   100 mg/dL
   0.2 mg/dL
   37 mEq/L
   4.2 mEq/L
   9 mg/dL
   103 mEq/L
   143 mEq/L
   33.0 %
   6.4 K/uL
        [image002.jpg]
                             [**2111-1-10**]  10:36 AM
                             [**2111-1-10**]  04:18 PM
                             [**2111-1-10**]  04:43 PM
                             [**2111-1-10**]  08:16 PM
                             [**2111-1-11**]  03:32 AM
                             [**2111-1-11**]  03:51 AM
                             [**2111-1-11**]  10:22 AM
                             [**2111-1-11**]  11:28 AM
                             [**2111-1-11**]  08:13 PM
                             [**2111-1-12**]  04:02 AM
   WBC
   6.1
   6.4
   Hct
   31.6
   31.1
   33.0
   Plt
   143
   152
   Cr
   0.1
   0.2
   TCO2
   39
   36
   35
   36
   37
   35
   34
   Glucose
   71
   100
   Other labs: PT / PTT / INR:13.0/33.1/1.1, CK / CKMB /
   Troponin-T:33//0.02, Lactic Acid:0.4 mmol/L, Ca++:8.4 mg/dL, Mg++:2.3
   mg/dL, PO4:3.9 mg/dL
   Imaging: CXR:  Severe kyphoscolosis.  ETT, OGT in good position.  L
   base difficult to assess
   Microbiology: Resp Viral panel:  Prelim neg
   sputum:  GS, ? OP flora
   Assessment and Plan
   60 yo F with h/o polio, severe kyphoscoliosis, and quadriplegia with
   severe restrictive lung disease admitted with hypercapnic respiratory
   failure.
   Respiratory Failure: Hypercapnic respiratory failure likely due to
   progressive worsening of her restrictive lung disease vs unclear acute
   insult.
     -Lighten sedation and titrate PS to provide adequate tidal volumes
     -Once awake and optimal PS determined-->extubated to bipap using
   above PS settings as guide for Bipap settings
     -check NIF
     -Revisit topic of tracheostomy
     -Replace A-line for frequent ABGs.
    Anemia:
      - Hct stable but below her baseline.
      -F/u iron studies, B12.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2111-1-11**] 02:24 PM 40 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2111-1-10**] 02:02 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2111-01-13 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- extubated to BiPAP; was on 14/8 for most of day/night; attempted to
   take off for a while, but pt desatted to 80's immediately
   -- having lots of secretions (bloody tinged) with very weak cough; had
   a hard time suctioning her with BiPAP; afebrile
   -- discussed trach options further with brother [**Doctor First Name 3143**] and pt; soem of
   decision to not have trach is based on not wanting to live at a
   facility, but she seems to not want a trach even if she lives at home
   -- brothers agreed to come in for fam mtg on [**1-13**]; can't meet until
   6:30 pm
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Penicillins
   Rash;
   Fluconazole
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2111-1-11**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-1-12**] 10:00 PM
   Dextrose 50% - [**2111-1-13**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-1-13**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.8
C (96.4
   HR: 57 (47 - 89) bpm
   BP: 119/65(77) {95/46(58) - 119/67(77)} mmHg
   RR: 16 (8 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 40 kg (admission): 40 kg
   Height: 61 Inch
             Total In:
                                                                  1,032 mL
                                                                    604 mL
   PO:
             TF:
                                                                    385 mL
   IVF:
                                                                    387 mL
                                                                    579 mL
   Blood products:
   Total out:
                                                                  1,218 mL
                                                                    120 mL
   Urine:
                                                                  1,218 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -186 mL
                                                                    484 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Set): 320 (320 - 320) mL
   Vt (Spontaneous): 507 (200 - 507) mL
   PS : 14 cmH2O
   RR (Set): 8
   RR (Spontaneous): 8
   PEEP: 8 cmH2O
   FiO2: 30%
   PIP: 23 cmH2O
   SpO2: 96%
   ABG: 7.40/63/77.[**Numeric Identifier **]/37/10
   NIF: -8 cmH2O
   Ve: 2 L/min
   PaO2 / FiO2: 260
   Physical Examination
   Gen: comfortable
   HEENT: NC, reactive pupils, Bipap in place
   LUNGS: clear but coarse b/l, decr breath sounds
   HEART: RRR, nl S1S2, no m/r/g
   ABD: soft, nd/nt
   EXT: no edema
   NEURO: awake, alert, conversant
   Labs / Radiology
   167 K/uL
   10.3 g/dL
   105 mg/dL
   0.1 mg/dL
   37 mEq/L
   3.6 mEq/L
   13 mg/dL
   102 mEq/L
   144 mEq/L
   30.7 %
   4.9 K/uL
        [image002.jpg]
                             [**2111-1-10**]  04:43 PM
                             [**2111-1-10**]  08:16 PM
                             [**2111-1-11**]  03:32 AM
                             [**2111-1-11**]  03:51 AM
                             [**2111-1-11**]  10:22 AM
                             [**2111-1-11**]  11:28 AM
                             [**2111-1-11**]  08:13 PM
                             [**2111-1-12**]  04:02 AM
                             [**2111-1-13**]  03:43 AM
                             [**2111-1-13**]  07:08 AM
   WBC
   6.1
   6.4
   4.9
   Hct
   31.1
   33.0
   30.7
   Plt
   143
   152
   167
   Cr
   0.1
   0.2
   0.1
   TCO2
   36
   35
   36
   37
   35
   34
   40
   Glucose
   71
   100
   105
   Other labs: PT / PTT / INR:13.0/62.9/1.1, CK / CKMB /
   Troponin-T:33//0.02, Lactic Acid:0.4 mmol/L, Ca++:8.7 mg/dL, Mg++:2.0
   mg/dL, PO4:2.4 mg/dL
   Imaging: CXR [**1-12**]:
   FINDINGS: In comparison with the study of [**1-11**], there is little overall
   change. Severe thoracic deformity is again seen. Continued
   opacification in
   the retrocardiac area that could represent any combination of
   atelectasis,
   effusion, and even supervening pneumonia. Monitoring and support
   devices
   remain in place.
   Microbiology: Sputum [**1-10**]: OP flora
   Resp screen [**1-10**]: Neg
   Blood x 2 [**1-9**]: NGTD
   MRSA screen: P
   Assessment and Plan
   60 yoF with restrictive chest wall disease in setting of polio history,
   presents with confusion in setting of hypercarbic respiratory failure.
   MS resolved with proper ventilation.
   # Respiratory failure: initially hypoxic on presentation but now is
   primarily a problem with ventilation and hypercarbia.   Has severe
   restrictive lung disease from polio.  Had ventilatory failure with SBT
   although clinically she appeared comfortable.   Levo/vanco stopped on
   [**2111-1-10**] given no clear evidence of infection on CXR.  Pt does not want
   trach; discussion held with brother in the room.  Rapid respiratory
   screen negative.  Extubated [**2111-1-12**] to Bipap; attempts at weaning bipap
   have failed. Has thick secretions, but no leukocytosis of fever to
   suggest HAP
   - need to re-discuss idea of tracheostomy
   - try to wean bipap; give bipap holiday again today
   - re-started levo/vanco on [**2111-1-13**] due to increased sputum and since
   she has little reserve
    # DROP IN HCT: Hct drop from baseline of 40 to 31 but has remained
   stable.  Has had some bloody secretions on the vent likely from
   traumatic intubation or suctioning.
   - guiac negative
   - empirically on IVPPI Daily
   - check Hct daily; maintain active T&S
   # FEN: started TFs over weekend as may need prolonged ventilatory
   support; now off as patient on Bipap;
   - maintenance fluids with D51/2NS
   # PPX: SQH, PPI, bowel regimen
    #  COMMUNICATION: with patient (on Bipap) and brothers (one of whom is
   HCP)
   [**Name (NI) 129**] status: Full code
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2111-1-10**] 02:02 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2111-01-13 11:35:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Extubated to Bipap yesterday.    Has essentially required it
   continuously since extubation -- desat within a few minutes (to mid
   80's) when bipap off yesterday evening.
   Beginning to have skin breakdown from mask along ridge of nose.
   Alert, interactive.  Trach discussed with patient
 remains unwilling
   to pursue at present.
   History obtained from Patient
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Penicillins
   Rash;
   Fluconazole
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2111-1-11**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-1-12**] 10:00 PM
   Dextrose 50% - [**2111-1-13**] 12:00 AM
   Other medications:
   Protonix, iron, senna, colace
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-1-13**] 11:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36
C (96.8
   HR: 54 (47 - 89) bpm
   BP: 109/54(67) {97/46(58) - 119/67(77)} mmHg
   RR: 14 (8 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 40 kg (admission): 40 kg
   Height: 61 Inch
             Total In:
                                                                  1,032 mL
                                                                    868 mL
   PO:
             TF:
                                                                    385 mL
   IVF:
                                                                    387 mL
                                                                    843 mL
   Blood products:
   Total out:
                                                                  1,218 mL
                                                                    275 mL
   Urine:
                                                                  1,218 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -186 mL
                                                                    593 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 507 (350 - 507) mL
   PS : 14 cmH2O
   RR (Spontaneous): 8
   PEEP: 8 cmH2O
   FiO2: 30%
   PIP: 23 cmH2O
   SpO2: 96%
   ABG: 7.40/63/77.[**Numeric Identifier **]/37/10
   Ve: 2 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: Dimished BS at bases.
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   167 K/uL
   105 mg/dL
   0.1 mg/dL
   37 mEq/L
   3.6 mEq/L
   13 mg/dL
   102 mEq/L
   144 mEq/L
   30.7 %
   4.9 K/uL
        [image002.jpg]
                             [**2111-1-10**]  04:43 PM
                             [**2111-1-10**]  08:16 PM
                             [**2111-1-11**]  03:32 AM
                             [**2111-1-11**]  03:51 AM
                             [**2111-1-11**]  10:22 AM
                             [**2111-1-11**]  11:28 AM
                             [**2111-1-11**]  08:13 PM
                             [**2111-1-12**]  04:02 AM
                             [**2111-1-13**]  03:43 AM
                             [**2111-1-13**]  07:08 AM
   WBC
   6.1
   6.4
   4.9
   Hct
   31.1
   33.0
   30.7
   Plt
   143
   152
   167
   Cr
   0.1
   0.2
   0.1
   TCO2
   36
   35
   36
   37
   35
   34
   40
   Glucose
   71
   100
   105
   Other labs: PT / PTT / INR:13.0/62.9/1.1, CK / CKMB /
   Troponin-T:33//0.02, Lactic Acid:0.4 mmol/L, Ca++:8.7 mg/dL, Mg++:2.0
   mg/dL, PO4:2.4 mg/dL
   Imaging: CXR:  Severe kyphoscoliosis.  Limited view of lung fields but
   appears unchanged.
   Microbiology: No positive cultures to date.
   Assessment and Plan
   60 yo F with h/o polio, severe kyphoscoliosis, and quadriplegia with
   severe restrictive lung disease admitted with hypercapnic respiratory
   failure.
   Respiratory Failure: Hypercapnic respiratory failure likely due to
   progressive worsening of her restrictive lung disease vs unclear acute
   insult. Does complain of some chest congestion making
   URI/tracheobronchitis possible. Tolerated bipap overnight but is very
   uncomfortable with her facial mask having developed skin breakdown
   along the ridge of her nose.  This is concerning given her current
   requirement for at night and most of day.   Unless turns around fairly
   rapidly, will likely require trache.
     -Would give trial of Vanco/levoflox for tracheobronchitis because
   she has such little reserve.  Send sputum Cx.
     -Intermittent trials off bipap today.
     -Her brother is to bring in her home machine and mask
     -MIE TID and PRN for mucous clearance
     -Will continue discussions with her regarding tracheostomy.
    Anemia:
     -Hct stable but below her baseline.
     -F/u iron studies, B12.
   FEN:  Maintenance fluids, NPO for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2111-1-10**] 02:02 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2111-01-15 08:05:00 Physician Resident Progress Note
Chief Complaint: Resp failure
   24 Hour Events:
   - confirmed DNR/DNI wishes privately and independently, then again in
   family discussion
   - refuses trach, understands that she will die without ventilatory
   support
   - remains on BiPAP for now but will likely d/c this in the next couple
   days
   - vanco/levo can be d/c'ed today if no growth on sputum
   - didn't draw am labs (no real need for labs in her)
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Penicillins
   Rash;
   Fluconazole
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2111-1-14**] 04:58 PM
   Levofloxacin - [**2111-1-14**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-1-14**] 08:43 AM
   Lorazepam (Ativan) - [**2111-1-14**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-1-15**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.6
C (96.1
   HR: 52 (46 - 72) bpm
   BP: 103/55(66) {92/49(60) - 152/78(92)} mmHg
   RR: 12 (10 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 40 kg (admission): 40 kg
   Height: 61 Inch
             Total In:
                                                                  2,843 mL
                                                                    399 mL
   PO:
             TF:
   IVF:
                                                                  2,843 mL
                                                                    399 mL
   Blood products:
   Total out:
                                                                  2,425 mL
                                                                    290 mL
   Urine:
                                                                  2,425 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    418 mL
                                                                    109 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 778 (284 - 778) mL
   PS : 14 cmH2O
   RR (Set): 8
   RR (Spontaneous): 6
   PEEP: 6 cmH2O
   FiO2: 40%
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 1.8 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: BIPAP
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: at bases)
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   185 K/uL
   10.1 g/dL
   168
   0.1 mg/dL
   34 mEq/L
   3.8 mEq/L
   6 mg/dL
   105 mEq/L
   142 mEq/L
   30.7 %
   4.3 K/uL
        [image002.jpg]
                             [**2111-1-11**]  03:32 AM
                             [**2111-1-11**]  03:51 AM
                             [**2111-1-11**]  10:22 AM
                             [**2111-1-11**]  11:28 AM
                             [**2111-1-11**]  08:13 PM
                             [**2111-1-12**]  04:02 AM
                             [**2111-1-13**]  03:43 AM
                             [**2111-1-13**]  07:08 AM
                             [**2111-1-14**]  02:55 AM
                             [**2111-1-15**]  06:00 AM
   WBC
   6.1
   6.4
   4.9
   4.3
   Hct
   31.1
   33.0
   30.7
   30.7
   Plt
   143
   152
   167
   185
   Cr
   0.1
   0.2
   0.1
   0.1
   TCO2
   36
   37
   35
   34
   40
   Glucose
   71
   100
   105
   84
   168
   Other labs: PT / PTT / INR:13.0/62.9/1.1, CK / CKMB /
   Troponin-T:33//0.02, Lactic Acid:0.4 mmol/L, Ca++:8.4 mg/dL, Mg++:1.9
   mg/dL, PO4:2.6 mg/dL
   Microbiology: Resp screen [**1-10**]: Negative
   Sputum [**1-13**]: OP flora
   Assessment and Plan
   60 yoF with restrictive chest wall disease in setting of polio history,
   presents with confusion in setting of hypercarbic respiratory failure.
   MS resolved with proper ventilation.
   # Respiratory failure: initially hypoxic on presentation but now is
   primarily a problem with ventilation and hypercarbia.   Has severe
   restrictive lung disease from polio.  Had ventilatory failure with SBT
   although clinically she appeared comfortable.   Levo/vanco stopped on
   [**2111-1-10**] given no clear evidence of infection on CXR.  Rapid respiratory
   screen negative.  Extubated [**2111-1-12**] to Bipap; attempts at weaning bipap
   have failed. Has thick secretions, but no leukocytosis of fever.  Pt
   has stated her wishes to not have a trach and is DNR/DNI.
   - palliative care consult
   - pt getting affairs in order; plan to d/c vent/bipap support in next
   1-2 days per patient
s wishes
   - trial of bipap to instead of mech ventilation w/mask
 if tolerates
   consider transfer to floor with CMO
   - re-started levo/vanco on [**2111-1-13**] due to increased sputum and since
   she has little reserve - no clinical change so will stop these
   - sputum gram stain [**1-13**]: oropharyngeal flora
   #  Hyperkalemia
   - repeat K+ was normal
   - ECG no evidence of hyperkalemia
    # DROP IN HCT: Hct drop from baseline of 40 to 31 but has remained
   stable.  Has had some bloody secretions on the vent likely from
   traumatic intubation or suctioning.
   - guiac negative
   - empirically on IVPPI Daily
   - stable
   # FEN: started TFs over weekend as may need prolonged ventilatory
   support; now off as patient on Bipap;
   - maintenance fluids with D51/2NS
   # PPX: SQH, PPI, bowel regimen
    #  COMMUNICATION: with patient (on Bipap) and brothers (one of whom is
   HCP)
   #  CODE: DNR/DNI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2111-1-10**] 02:02 AM
   20 Gauge - [**2111-1-13**] 03:42 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU vs  call out to floor if tolerates BiPap

2111-01-15 09:42:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Yesterday evening, patient informed medical team and her brothers that
   she wishes to be DNR/DNI and that she definitely does not want
   tracheostomy.  As such, she feels that she would prefer to die in the
   hospital and is preparing herself for that.
   History obtained from Patient
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Penicillins
   Rash;
   Fluconazole
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2111-1-14**] 04:58 PM
   Levofloxacin - [**2111-1-14**] 08:00 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2111-1-14**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2111-1-15**] 08:32 AM
   Other medications:
   Protonix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-1-15**] 09:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.6
C (96.1
   HR: 50 (46 - 72) bpm
   BP: 93/61(68) {92/49(60) - 152/78(92)} mmHg
   RR: 13 (10 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 40 kg (admission): 40 kg
   Height: 61 Inch
             Total In:
                                                                  2,843 mL
                                                                    471 mL
   PO:
             TF:
   IVF:
                                                                  2,843 mL
                                                                    471 mL
   Blood products:
   Total out:
                                                                  2,425 mL
                                                                    310 mL
   Urine:
                                                                  2,425 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    418 mL
                                                                    161 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 487 (284 - 778) mL
   PS : 14 cmH2O
   RR (Set): 10
   RR (Spontaneous): 11
   PEEP: 6 cmH2O
   FiO2: 40%
   PIP: 20 cmH2O
   SpO2: 99%
   ABG: ////
   Ve: 2.7 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: No(t) Normal), (S2: No(t) Normal), No(t) S3, No(t)
   S4, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: At bases B/L)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   185 K/uL
   168
   0.1 mg/dL
   34 mEq/L
   3.8 mEq/L
   6 mg/dL
   105 mEq/L
   142 mEq/L
   30.7 %
   4.3 K/uL
        [image002.jpg]
                             [**2111-1-11**]  03:32 AM
                             [**2111-1-11**]  03:51 AM
                             [**2111-1-11**]  10:22 AM
                             [**2111-1-11**]  11:28 AM
                             [**2111-1-11**]  08:13 PM
                             [**2111-1-12**]  04:02 AM
                             [**2111-1-13**]  03:43 AM
                             [**2111-1-13**]  07:08 AM
                             [**2111-1-14**]  02:55 AM
                             [**2111-1-15**]  06:00 AM
   WBC
   6.1
   6.4
   4.9
   4.3
   Hct
   31.1
   33.0
   30.7
   30.7
   Plt
   143
   152
   167
   185
   Cr
   0.1
   0.2
   0.1
   0.1
   TCO2
   36
   37
   35
   34
   40
   Glucose
   71
   100
   105
   84
   168
   Other labs: PT / PTT / INR:13.0/62.9/1.1, CK / CKMB /
   Troponin-T:33//0.02, Lactic Acid:0.4 mmol/L, Ca++:8.4 mg/dL, Mg++:1.9
   mg/dL, PO4:2.6 mg/dL
   Microbiology: Sputum Cx:  Oral pharyngeal flora
   Assessment and Plan
   60 yo F with h/o polio, severe kyphoscoliosis, and quadriplegia with
   severe restrictive lung disease admitted with hypercapnic respiratory
   failure.
   Respiratory Failure: Hypercapnic respiratory failure likely due to
   progressive worsening of her restrictive lung disease vs unclear acute
   insult. Does complain of some chest congestion making
   URI/tracheobronchitis possible. Continued with bipap overnight.
     -D/c abx given negative cultures
     -Intermittent trials off bipap as she tolerates for her comfort
     -Will change to bipap from vent.
     -MIE TID and PRN for mucous clearance
    Hyperkalemia:  Likely spurious
    FEN:  Maintenance fluids, NPO for now.
   Dispo:  We will send her to the medical floor if she tolerates transfer
   to bipap machine.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2111-1-10**] 02:02 AM
   20 Gauge - [**2111-1-13**] 03:42 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 30 minutes